US05141746
Genistin Malonate (Molecular Weight, g)
The 13C nuclear magnetic resonance spectrum (NMR) of daidzin malonate in dimethyl sulfoxide (DMSO-d6) at 20° C. shows the following characteristic signals:

reactant | daidzin malonate | C1=CC(=CC=C1C2=COC=3C=C(C=CC3C2=O)O[C@H]4[C@@H]([C@H]([C@@H]([C@H](O4)CO)O)O)O)O.C(CC(=O)[O-])(=O)[O-]
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | Genistin Malonate | C1=CC(=CC=C1C2=COC3=CC(=CC(=C3C2=O)O)O[C@H]4[C@@H]([C@H]([C@@H]([C@H](O4)COC(=O)CC(=O)O)O)O)O)O | C24H22O13
